US07612075B2
E. 1-(1-Benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-piperazin-2-one.
TMSI (2.7 mL, 19.0 mmol) is added to a solution of 4-(1-benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester (5.06 g, 9.38 mmol) in CH3CN (134 mL) at 0° C. The reaction mixture is warmed to RT and stirred for 5 hours. The reaction mixture is concentrated to dryness and the red residue is diluted with MeOH and concentrated to dryness (this is repeated twice). The mixture is diluted with CH2Cl2 and washed with saturated NaHCO3 and brine. The organic layer is dried over MgSO4, filtered and concentrated to dryness. The crude product is chromatographed eluting with 1-5% MeOH/CH2Cl2 to yield the title product (0.70 g, 1.74 mmol) and unreacted starting material (3.58 g, 6.64 mmol). 1H NMR (CDCl3, 300 MHz) δ8.20 (d, 1H), 7.93 (d, 1H), 7.85 (d, 2H), 7.60 (d, 1H), 7.51 (m, 2H), 6.50 (s, 1H), 5.01 (s, 2H), 3.45 (m, 2H), 3.18 (m, 2H). Ion spray [M+H]+=405, 407, Cl pattern.

reactant | TMSI | 19.0 mmol, 2.7 mL | [Si](C)(C)(C)I | C3H9ISi
reactant | 4-(1-benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester | 9.38 mmol, 5.06 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=2C(=NC=CC2N1S(=O)(=O)C1=CC=CC=C1)Cl)=O | C26H23ClN4O5S
solvent | CH3CN | 134 mL | CC#N | C2H3N
product | 1-(1-Benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-piperazin-2-one | 1.74 mmol, 0.70 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C(=NC=CC21)Cl)CN2C(CNCC2)=O | C18H17ClN4O3S
